US06166028
4-Carboethoxythiazole
A solution of 3-dimethylamino-2-isocyano-acrylic acid ethyl ester (1.0 g) and triethylamine (3.0 g) in tetrahydrofuran (30 mL) is treated with gaseous hydrogen sulfide until all starting material is consumed. The mixture is concentrated to an oil and purified by column chromatography using silica and 25% ethyl acetate-hexanes as the eluant. The purified material (0.61 g) is isolated as an oil.

reactant | 3-dimethylamino-2-isocyano-acrylic acid ethyl ester | 1.0 g | C(C)OC(C(=CN(C)C)[N+]#[C-])=O | C8H12N2O2
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-Carboethoxythiazole | 0.61 g | C(=O)(OCC)C=1N=CSC1 | C6H7NO2S
